US05861421
Preparation of 4-(3-cyclopentyloxy-4-methoxyphenyl)-1,1-(ethylenedioxy)-4-(3-carbomethoxyphenylethynyl)cyclohexane
A mixture of 4-(3-cyclopentyloxy-4-methoxyphenyl)-1,1-(ethylenedioxy)-4-ethynylcyclohexane (0.150 g, 0.421 mmol) and methyl 3-iodobenzoate (0.110 g, 0.421 mmol) in piperidine (2.1 mL, dry) under an argon atmosphere was treated with a mixture of tetrakis(triphenylphosphine)palladium(0) (0.020 g, 0.017 mmol), cuprous iodide (0.010 g, 0.053 mmol) and triphenylphosphine (crystal) and the mixture was heated at 80° C. for 40 min. The reaction mixture was chilled to 0° C., was poured into ice-water, was acidified with 3N hydrochloric acid and was extracted five times with methylene chloride. The organic phase was washed with dilute hydrochloric acid, water, saturated brine, was dried over magnesium sulfate, was filtered and concentrated in vacuo. The residue was preadsorbed and chromatographed on silica gel, eluting the with 15 to 20% ethyl acetate in hexanes, to afford a light yellow oil. 1H-NMR (250 MHz, CDCl3) δ 8.11 (t, J=1.4 Hz, 1H), 7.97 (d-d, J=1.3 Hz;J=7.9 Hz, 1H), 7.63 (d-d, J=7.8 Hz;J=1.3 Hz, 1H), 7.39 (t, J=7.8 Hz, 1H), 7.23 (d, J=2.2, 1H), 7.15 (d-d, J=8.4 Hz;J=2.3 Hz, 1H), 6.89 (d, J=8.4 Hz, 1H), 4.80 (m, 1H), 4.00 (s, br, 4H), 3.92 (s, 3H), 3.84 (s, 3H), 2.4 to 1.75 (m, 18H).

reactant | 4-(3-cyclopentyloxy-4-methoxyphenyl)-1,1-(ethylenedioxy)-4-ethynylcyclohexane | 0.421 mmol, 0.150 g | C1(CCCC1)OC=1C=C(C=CC1OC)C1(CCC2(CC1)OCCO2)C#C | C22H28O4
reactant | methyl 3-iodobenzoate | 0.421 mmol, 0.110 g | IC=1C=C(C(=O)OC)C=CC1 | C8H7IO2
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | piperidine | 2.1 mL | N1CCCCC1 | C5H11N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.017 mmol, 0.020 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(3-cyclopentyloxy-4-methoxyphenyl)-1,1-(ethylenedioxy)-4-(3-carbomethoxyphenylethynyl)cyclohexane | C1(CCCC1)OC=1C=C(C=CC1OC)C1(CCC2(CC1)OCCO2)C#CC2=CC(=CC=C2)C(=O)OC | C30H34O6
